US08486979B2
5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)pyridin-3-ol
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 5-hydroxynicotinic acid (Matrix Scientific). 1H NMR (300 MHz, DMSO-d6) δ 7.66 (ddd, J=8.0, 4.9, 1.0 Hz, 1 H), 7.86 (dd, J=2.7, 2.0 Hz, 1 H), 8.31-8.55 (m, 2 H), 8.83 (s, 2 H), 9.26 (s, 1 H) ppm; MS (DCI/NH3) m/z 241 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 5-hydroxynicotinic acid | OC=1C=NC=C(C(=O)O)C1 | C6H5NO3
reactant | NH3 | N | H3N
product | 5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)pyridin-3-ol | N1=CC(=CC=C1)C1=NOC(=N1)C=1C=C(C=NC1)O | C12H8N4O2
